US05045228
Synthesis of 2-(4-hydroxyphenyl)-5-octyloxypyridine
The intended compound was synthesized from 4-hydroxybenzamidine hydrochloride and β-dimethylamino-α-octyloxyacrolein by customary procedures by using sodium methoxide.

reactant | 4-hydroxybenzamidine hydrochloride | Cl.OC1=CC=C(C(=N)N)C=C1
reactant | β-dimethylamino-α-octyloxyacrolein | CN(C(COC(=O)C=C)CCCCCC)C | C13H25NO2
reactant | sodium methoxide | C[O-].[Na+]
product | 2-(4-hydroxyphenyl)-5-octyloxypyridine | OC1=CC=C(C=C1)C1=NC=C(C=C1)OCCCCCCCC | C19H25NO2
